US07582775B2
Preparation of [(2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carbonyl)-amino]-acetic acid
2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carboxylic acid (310 mg, 0.686 mmol), DMAP (167 mg, 1.37 mmol), EDC (197 mg, 1.03 mmol), and glycine methyl ester hydrochloride (172 mg, 1.37 mmol) are reacted and hydrolyzed in a sequence analogous to Example 5 to afford the title compound (246 mg, 70%).

reactant | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carboxylic acid | 0.686 mmol, 310 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC2=C(S1)C=CC(=C2)C(=O)O)C)=O)(C)C | C27H32O4S
reactant | EDC | 1.03 mmol, 197 mg
reactant | glycine methyl ester hydrochloride | 1.37 mmol, 172 mg | Cl.COC(CN)=O
catalyst | DMAP | 1.37 mmol, 167 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carbonyl)-amino]-acetic acid | 246 mg, 70% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC2=C(S1)C=CC(=C2)C(=O)NCC(=O)O)C)=O)(C)C | C29H35NO5S
